* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\COMB\COMB06op.asc
J1 C G B JFET
R2 B E {R2}
RL Vpp C {RL}
Q1 C B E 0 TBJ
R1 E 0 {R1}
XU1 N001 E Vpp Vnn G level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
V3 N001 0 {Vi}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.jft
.op
.model JFET njf(Beta=5m Vto=-1)
.param Vi=5 Vs=20 R2=68k R1=220 RL=120
.model TBJ NPN(IS=10F BF=150)
.lib UniversalOpAmp2.lib
.backanno
.end
